US06211234B1
A mixture of (RS)-4-[2-formyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid (0.7 g), O-benzylhydroxylamine hydrochloride (0.48 g) and pyridine (1 mL) in ethanol (50 mL) is heated at 65° C. for 5 hours. The reaction mixture is evaporated. The residue is dissolved dichloromethane (80 mL), washed with 1 N hydrochloric acid, then with water, dried over magnesium sulphate and evaporated. The resulting oil is purified by flash chromatography on silica eluting with a mixture of dichloromethane and methanol (95:5 v/v). Fractions homogeneous in the required product are combined, evaporated and the solid residue triturated with pentane to give (RS)-4-[2-(benzyloxyiminomethyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid hydrate (0.2 g) as a cream coloured solid, m.p. 35-37° C. [Elemental analysis:- C,69.2; H,5.60; N,2.58; S,6.26%. Calculated for C25H23NO8.0.3H2O: - C,69.2; H,5.72; N,2.69; S,6.16%]

reactant | (RS)-4-[2-formyl-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | 0.7 g | C(=O)C1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | C23H22O5S
reactant | O-benzylhydroxylamine hydrochloride | 0.48 g | Cl.C(C1=CC=CC=C1)ON
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (RS)-4-[2-(benzyloxyiminomethyl)-5-(3-thienylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid hydrate | 0.2 g | O.C(C1=CC=CC=C1)ON=CC1=C(OC(CCC(=O)O)C2=C(C=CC=C2)C)C=C(C=C1)OCC1=CSC=C1 | InChI=1S/C30H29NO5S.H2O/c1-22-7-5-6-10-27(22)28(13-14-30(32)33)36-29-17-26(34-19-24-15-16-37-21-24)12-11-25(29)18-31-35-20-23-8-3-2-4-9-23;/h2-12,15-18,21,28H,13-14,19-20H2,1H3,(H,32,33);1H2
